US08791142B2
Step 2) tert-butyl ({5-[amino(hydroxyimino)methyl]-3-chloropyridin-2-yl}amino)acetate
Hydroxylamine (1.5 mL, 39.5 mmol) was added into a solution of tert-butyl [(3-chloro-5-cyanopyridin-2-yl)amino]acetate (2.1 g, 7.9 mmol) in THF (30 mL) under nitrogen. The reaction mixture was stirred at RT for 48 hours, and then was concentrated under reduced pressure to afford the title compound as a white solid (2.4 g, quantitative). LC/MS, M+(ESI): 301.0. 1H NMR (DMSO-d6, 400 MHz) δ 9.52 (1H, s), 8.24 (1H, d), 7.81 (1H, d), 7.04 (1H, t), 5.80 (2H, s), 3.95 (2H, m), 1.37 (9H, s).

reactant | Hydroxylamine | 39.5 mmol, 1.5 mL | NO | H3NO
reactant | tert-butyl [(3-chloro-5-cyanopyridin-2-yl)amino]acetate | 7.9 mmol, 2.1 g | ClC=1C(=NC=C(C1)C#N)NCC(=O)OC(C)(C)C | C12H14ClN3O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl ({5-[amino(hydroxyimino)methyl]-3-chloropyridin-2-yl}amino)acetate | 2.4 g | NC(C=1C=C(C(=NC1)NCC(=O)OC(C)(C)C)Cl)=NO | C12H17ClN4O3
